US04489003
A mixture of 6.22 g (20 mmol) of ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 1.52 g (6.7 mmol) of tetraethyl orthotitanate and 10 g (194 mmol) of hydroxymethyl-cyclopropane is stirred at 115° overnight, evaporated to dryness, the residue is taken up in methylene chloride and stirred for 0.5 hour with about 50 ml of water. The emulsion obtained is filtered through siliceous earth, the organic phase is washed with saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated. By recrystallization of the residue from ethyl acetate there is obtained cyclopropylmethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 189-190°.

reactant | ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 20 mmol, 6.22 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OCC)CCC2 | C17H17N3O3
reactant | hydroxymethyl-cyclopropane | 194 mmol, 10 g | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 6.7 mmol, 1.52 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OCC3CC3)CCC2 | C19H19N3O3
